US06699866B2
The 2-(2-isothiocyanatoethyl)-1-methylpyrrolidine and concentrated ammonium hydroxide (3 mL) were heated at 100° C. for 30 minutes. Additional ammonium hydroxide (1 mL) was added and heating was continued for an additional 30 minutes. The reaction mixture was allowed to cool to room temperature and then it was lyophilized to give [2-(1-methylpyrrolidin-2-yl)ethyl]thiourea as a very viscous colorless oil.

reactant | 2-(2-isothiocyanatoethyl)-1-methylpyrrolidine | N(=C=S)CCC1N(CCC1)C | C8H14N2S
reactant | ammonium hydroxide | 3 mL | [OH-].[NH4+]
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
product | [2-(1-methylpyrrolidin-2-yl)ethyl]thiourea | CN1C(CCC1)CCNC(=S)N | C8H17N3S
